US04413129
90 ml of a 30% aqueous solution of monomethylamine is added dropwise with cooling by ice to 4.3 g of N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-O-ethylisourea dissolved in the mixture of 90 ml of ethanol and 60 ml of water. After reaction at 0° C. overnight, the solution is concentrated under reduced pressure and chromatographed similarly as in Example 1 (iii) to separate a reaction solution. Thus obtained solution is concentrated under reduced pressure and is crystallized from isopropyl alcohol-ether to yield 3.0 g of cimetidine, namely N-cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine (yield: 75.0%)

reactant | monomethylamine | CN | CH5N
reactant | N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-O-ethylisourea | 4.3 g | C(#N)NC(OCC)=NCCSCC1=C(N=CN1)C | C11H17N5OS
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | N-cyano-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | yield: 75.0% | C(#N)NC(=NCCSCC1=C(N=CN1)C)NC | C10H16N6S
